US06232290B1
A solution of methyl 4-(4′-hydroxyphenyl)benzoate (5 g) in N,N-dimethylformamide (50 ml) was treated with potassium carbonate (6.06 g) and allyl bromide (2.46 ml), then heated at 60° C. for 3 hours. After cooling, the reaction mixture was poured into ice-water (˜200 ml) and the resulting precipitate was collected by filtration, washed with water, then isopropyl ether, then dried to give methyl 4-[4′-(allyloxy) phenyl]benzoate (5.55 g) as a solid.

reactant | methyl 4-(4′-hydroxyphenyl)benzoate | 5 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C14H12O3
reactant | potassium carbonate | 6.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 2.46 ml | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 4-[4′-(allyloxy) phenyl]benzoate | 5.55 g | C(C=C)OC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C17H16O3
